US07199120B2
N-Isobutyl-2,3-bis[2-(isobutylamino)pyrimidin-4-yl]pyrazolo[1,5-a]pyridin-7-amine pyridine was prepared by treating 7-chloro-2,3-bis[2-(methylsulfinyl)pyrimidin-4-yl]pyrazolo[1,5-a]pyridine with isobutylamine as described in Example 7. 1H NMR, (400 MHz, CDCl3): δ 8.35 (d, 1H), 8.09 (d, 1H), 7.59 (d, 1H), 7.30 (d, 1H), 6.94 (bs, 1H), 6.57 (m, 1H), 6.16 (t, 1H), 6.00 (d, 1H), 5.26 (bs, 1H), 5.17 (bs, 1H), 3.25 (t, 3H), 3.18 (t, 3H), 2.00–2.15 (m, 1H), 1.85–1.95 (m, 2H), 0.90–1.10 (m, 18H); MS m/z 488 (M+1).

reactant | 7-chloro-2,3-bis[2-(methylsulfinyl)pyrimidin-4-yl]pyrazolo[1,5-a]pyridine | ClC1=CC=CC=2N1N=C(C2C2=NC(=NC=C2)S(=O)C)C2=NC(=NC=C2)S(=O)C | C17H13ClN6O2S2
reactant | isobutylamine | C(C(C)C)N | C4H11N
product | N-Isobutyl-2,3-bis[2-(isobutylamino)pyrimidin-4-yl]pyrazolo[1,5-a]pyridin-7-amine pyridine | N1=CC=CC=C1.C(C(C)C)NC1=CC=CC=2N1N=C(C2C2=NC(=NC=C2)NCC(C)C)C2=NC(=NC=C2)NCC(C)C | InChI=1S/C27H37N9.C5H5N/c1-17(2)14-30-23-9-7-8-22-24(20-10-12-28-26(33-20)31-15-18(3)4)25(35-36(22)23)21-11-13-29-27(34-21)32-16-19(5)6;1-2-4-6-5-3-1/h7-13,17-19,30H,14-16H2,1-6H3,(H,28,31,33)(H,29,32,34);1-5H
